US08710043B2
Step 2. Benzyl 1-(2-(tert-butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate
A solution of benzyl 2-oxo-2H-pyran-5-carboxylate (906 mg, 3.94 mmol) and glycine tert butyl ester hydrochloride (726 mg, 4.33 mmol) in MeOH (20 mL) was treated with TEA (1.642 mL, 11.81 mmol). The reaction was stirred at 23° C. under nitrogen. After 1 h, the solution was concentrated in vacuo and purified by silica gel chromatography (eluent: 10-50% EtOAc/hexane), affording the title compound as a light yellow oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.11 (d, J=2.35 Hz, 1H), 7.90 (dd, J=9.59, 2.54 Hz, 1H), 7.31-7.54 (m, 5H), 6.55 (d, J=9.59 Hz, 1H), 5.30 (s, 2H), 4.56 (s, 2H), 1.48 (s, 9H). MS (ESI, positive ion) m/z: 366.0 (M+H).

reactant | benzyl 2-oxo-2H-pyran-5-carboxylate | 3.94 mmol, 906 mg | O=C1OC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C13H10O4
reactant | glycine tert butyl ester hydrochloride | 4.33 mmol, 726 mg | Cl.C(C)(C)(C)OC(CN)=O
solvent | MeOH | 20 mL | CO | CH4O
product | Benzyl 1-(2-(tert-butoxy)-2-oxoethyl)-6-oxo-1,6-dihydropyridine-3-carboxylate | C(C)(C)(C)OC(CN1C=C(C=CC1=O)C(=O)OCC1=CC=CC=C1)=O | C19H21NO5
